US05276038
Preparation of 1-(p-Chlorophenyl)-3-(3,4-dihydro-2-methyl-4-oxo-3-quinazolinyl)urea
A mixture of 3-amino-2-methyl-4-quinazolone (1.60 g, 9.10 mmol) and 4-chlorophenyl isocyanate (1.54 g, 10.0 mmol) in 1,2-dichloroethane is heated at reflux for 22 hours, concentrated in vacuo, cooled to 0° C. and filtered. The filter cake is washed with ether and dried to give the title product as a white solid, 2.45 g (82%), mp 228°-229.5° C.

reactant | 3-amino-2-methyl-4-quinazolone | 9.10 mmol, 1.60 g | NN1C(=NC2=CC=CC=C2C1=O)C | C9H9N3O
reactant | 4-chlorophenyl isocyanate | 10.0 mmol, 1.54 g | ClC1=CC=C(C=C1)N=C=O | C7H4ClNO
solvent | 1,2-dichloroethane | ClCCCl | C2H4Cl2
product | 1-(p-Chlorophenyl)-3-(3,4-dihydro-2-methyl-4-oxo-3-quinazolinyl)urea | ClC1=CC=C(C=C1)NC(=O)NN1C(=NC2=CC=CC=C2C1=O)C | C16H13ClN4O2
